US07163937B2
A sample of benzyl (1S,2R,4R)-4-hydroxy-2-(trityloxymethyl)cyclohexylcarbamate (6.9 g, 13.24 mMol) was dissolved in a mixture of MeI (12.4 mL, 198.6 mMol) and anhydrous DMF (15 mL) prior to the addition of Ag2O (6.1 g, 26.48 mMol) in one portion under an argon flush. The reaction was set to stir at rt in the dark. After stirring for 30 hr (the reaction was incomplete), it was diluted with CH2Cl2 and filtered. through Celite. Filtered and concentrated to a yellow oil and flash chromatographed to get benzyl (1S,2R,4R)-4-methoxy-2-(trityloxymethyl)cyclohexylcarbamate (3.48 g) as a white foamy solid and recover the starting materiel.

reactant | benzyl (1S,2R,4R)-4-hydroxy-2-(trityloxymethyl)cyclohexylcarbamate | 13.24 mMol, 6.9 g | O[C@H]1C[C@H]([C@H](CC1)NC(OCC1=CC=CC=C1)=O)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H35NO4
reactant | MeI | 198.6 mMol, 12.4 mL | CI | CH3I
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | benzyl (1S,2R,4R)-4-methoxy-2-(trityloxymethyl)cyclohexylcarbamate | 3.48 g | CO[C@H]1C[C@H]([C@H](CC1)NC(OCC1=CC=CC=C1)=O)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C35H37NO4
